US08193378B2
Methyl 2-hydroxy-4-[(2-methoxy-4-propylphenoxy)methyl]benzoate (300 mg) was dissolved in THF (15 mL). To the reaction liquid was added LAH (103.4 mg) at 0° C., followed by warming from 0° C. to 25° C. and then stirring for 3 hours. To the reaction liquid was added a saturated aqueous Rochelle salt solution (30 mL), followed by extraction with EtOAc (30 mL) three times. The organic layer was washed with brine, dried over MgSO4, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (automatic purification device, hexane:EtOAc=100:0 to 80:20) to obtain 2-(hydroxymethyl)-5-[(2-methoxy-4-propylphenoxy)methyl]phenol (245.2 mg) as a white solid.

reactant | Methyl 2-hydroxy-4-[(2-methoxy-4-propylphenoxy)methyl]benzoate | 300 mg | OC1=C(C(=O)OC)C=CC(=C1)COC1=C(C=C(C=C1)CCC)OC | C19H22O5
reactant | LAH | 103.4 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Rochelle salt | 30 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-(hydroxymethyl)-5-[(2-methoxy-4-propylphenoxy)methyl]phenol | 245.2 mg | OCC1=C(C=C(C=C1)COC1=C(C=C(C=C1)CCC)OC)O | C18H22O4
